* source AMPLIFICATOR AUDIO DE PUTERE
R_R15         -15 N571050  33  
C_C1         N56961 N57017  47p  
C_C6         N57707 N57121  1n  
R_R26         N57125 N57161  33  
V_V1         +15 0 15Vdc
R_R30a         N57121 N57411  0.47  
R_R31         N57121 N56951  47k  
R_R29a         N57115 N57121  0.47  
X_R9    N56971 N56965 N566312 SCHEMATIC1_R9 
V_V2         0 -15 15Vdc
R_R27         -15 N58817  33  
R_R7         N57313 +15  1.5k  
R_R6         0 N56933  47k  
C_C5         N57121 N57713  1n  
R_R16         N57707 N57115  1K  
R_R13         N57319 N57261  1k  
R_R11         -15 N56961  5.6k  
R_Rs         0 N57411  8  
R_R10         N568651 N56951  4.7k  
R_R5         N77357 N56933  2.2k  
R_R8         N57313 N566312  15k  
R_R3         N57713 N57125  1k  
R_R28a         N57121 N57125  0.47  
R_R12         N57319 +15  910 TC=0,0 
R_R30c         N57121 N57411  0.47  
R_R30b         N57121 N57411  0.47  
Q_Q8         N57115 N58817 -15 QMJD31C 
Q_Q6         N58817 N57017 N57115 QBC856B 
Q_Q5         +15 N57261 N57161 QBC846B 
Q_Q7         +15 N57161 N57125 QMJD31C 
Q_Q10         N57261 N57713 N57121 QBC846B 
Q_Q4         N57261 N593950 N57017 QBC846B 
Q_Q11         N57017 N57707 N57121 QBC856B 
Q_Q3         N57017 N56961 N571050 QBC817-25 
Q_Q1         N56961 N56933 N56971 QBC856B 
Q_Q2         -15 N56951 N56965 QBC856B 
V_V3         N57775 0  AC 0.1
+SIN 0 0.1 1kHz 0 0 0
R_R28b         N57121 N57125  0.47  
R_R29b         N57115 N57121  0.47  
R_R1A         N71297 N57261  330  
R_R1B         N57017 N70189  330  
D_D2         0 N57313 BZX84-C8V2 
X_R14    N70189 N71297 N593950 SCHEMATIC1_R14 
C_C2         N57775 N77357  4.7u  TC=0,0 
C_C3         0 N568651  4.7u  TC=0,0 
C_C4         N57121 N57319  4.7u  TC=0,0 

.subckt SCHEMATIC1_R9 1 2 t  
RT_R9         1 t {(500*(1-0.23))+.001}
RB_R9         t 2 {(500*0.23)+.001}
.ends SCHEMATIC1_R9

.subckt SCHEMATIC1_R14 1 2 t  
RT_R14         1 t {(2k*(1-0.7))+.001}
RB_R14         t 2 {(2k*0.7)+.001}
.ends SCHEMATIC1_R14
