* E:\Proiecte Orcad\Amplificator audio de putere-PSpiceFiles\SCHEMATIC1\Amplificator audio de putere\Draft2.asc
V1 N006 0 SINE(0 1 1k)
XU1 N006 N001 VDD VSS N005 LT1001
XU2 N006 N003 VDD VSS N004 LT1001
R1 N002 N001 1k
R2 N001 0 1k
R3 N003 N002 1k
R4 N004 N003 2k
D1 N002 N005 1N4148
D2 N005 N001 1N4148
.model D D
.lib C:\Users\moise\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc V1 -1 1 10m
.lib LTC.lib
.backanno
.end
